US06613942B1
4-(2,5-Dimethyl-4-formylphenyl)-1-benzylpiperazine:
The 4-(2,5-dimethylphenyl)-1-benzylpiperazine (10 g, 36 mmol) was dissolved in anhydrous DMF (30 mL, 390 mmol) and cooled to 0° C. Fresh POCl3 (70 mL, 750 mmol) was added drop wise with stirring. Once the addition was completed the dark mixture was warmed to 75° C. for five hours or until TLC analysis indicated the disappearance of the starting material. The excess phosphorous oxychloride was distilled off and the entire mixture was diluted with ethyl acetate and added slowly to 500 mL of ice-chips. The solution was neutralized and made basic with concentrated NaOH. The neutralization and basification must be done at low temperatures to avoid creating by-products. The formylated product was extracted with ethyl acetate (5×). The organic layer was washed with water (2×), brine, dried over magnesium sulfate and purified by silica gel column chromatography using gradient hexane/ethyl acetate (10/0 to 8/2). The product (9 g, 81%) was obtained as an oil.

reactant | 4-(2,5-dimethylphenyl)-1-benzylpiperazine | 36 mmol, 10 g | CC1=C(C=C(C=C1)C)N1CCN(CC1)CC1=CC=CC=C1 | C19H24N2
reactant | DMF | 390 mmol, 30 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 750 mmol, 70 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-(2,5-Dimethyl-4-formylphenyl)-1-benzylpiperazine | 9 g, 81% | CC1=C(C=C(C(=C1)C=O)C)N1CCN(CC1)CC1=CC=CC=C1 | C20H24N2O
